US04022833
Condensation of 1-hexadecene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxyhexadecylamine] (I: R= CH3 (CH2)13, R' = H, X= (CH2)6, Z= H).

reactant | 1-hexadecene oxide | C1C(CCCCCCCCCCCCCC)O1 | C16H32O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxyhexadecylamine] | C(CCCCCNCC(CCCCCCCCCCCCCC)O)NCC(CCCCCCCCCCCCCC)O | C38H80N2O2
